US06809199B2
A solution of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-carbaldehyde (Intermediate AAA1, 208 mg, 0.48 mmol) and 1-BOC-3-methylpiperazine (96 mg, 0.48 mmol) in dichloroethane (5 mL) was stirred at rt for 30 min. To this was added sodium triacetoxyborohydride (150 mg, 0.67 mmol) followed by acetic acid (29 mg, 0.48 mmol). The resulting reaction mixture was stirred at rt for 20 h. The reaction was quenched with 2N NaOH solution (6 mL) followed by extraction with ethyl acetate (100 mL×2). The organic layer was washed with brine and dried over anhydrous sodium sulfate. Removal of the solvent and subsequent purification by flash chromatography using 25% acetone/hexane provided tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}-3-methylpiperazine-1-carboxylate as a white solid. 1H NMR (CDCl3, 500 MHz): δ 0.98 (s, 3H), 1.46 (s, 9H), 2.06 (brs, 1H), 2.39 (brs, 1H), 2.60 (brs, 1H), 2.82 (brs, 1H), 3.05 (brs, 1H), 3.15 (m, 1H), 3.54 (brs, 2H), 3.82 (brs, 1H), 4.34 (abq, 2H, J=14.2 Hz), 5.15 (s, 1H), 6.16 (d, 1H, J=5.2 Hz), 6.88 (s, 1H), 7.20-7.60 (m, 7H). MS (API-ES+): 617 (M+H).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-carbaldehyde | 0.48 mmol, 208 mg | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)C=O)C1=C(C=CC=C1Cl)Cl)=O | C21H13Cl3N2O2
reactant | 1-BOC-3-methylpiperazine | 0.48 mmol, 96 mg | C(=O)(OC(C)(C)C)N1CC(NCC1)C | C10H20N2O2
reactant | sodium triacetoxyborohydride | 0.67 mmol, 150 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.48 mmol, 29 mg | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}-3-methylpiperazine-1-carboxylate | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)CN1C(CN(CC1)C(=O)OC(C)(C)C)C)C1=C(C=CC=C1Cl)Cl)=O | C31H33Cl3N4O3
